US07598232B2
A solution of (E)-2,4,6-trimethoxystyryl-3-(acetoxyacetamido)-4-methoxy benzylsulfone (10 mmol) was hydrolyzed in 50% ethanol containing potassium carbonate (70 mmol) to give (E)-2,4,6-trimethoxystyryl-3-(hydroxyacetamido)-4-methoxybenzylsulfone in 87.4% yield. (m.p. 174-1 76° C.)

reactant | (E)-2,4,6-trimethoxystyryl-3-(acetoxyacetamido)-4-methoxy benzylsulfone | 10 mmol | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NC(COC(C)=O)=O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NC(COC(C)=O)=O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C46H52N2O16S
reactant | potassium carbonate | 70 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | (E)-2,4,6-trimethoxystyryl-3-(hydroxyacetamido)-4-methoxybenzylsulfone | 87.4% yield | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NC(CO)=O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NC(CO)=O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C42H48N2O14S
